US08455507B2
Method D: 2-(8-fluoro-2-methylquinolin-6-ylthio)-N-(3-methyl-1H-pyrazol-5-yl)-6-(4-(1-methylpiperidin-4-yl)piperazin-1-yl)pyrimidin-4-amine
To a stirred mixture of 6-chloro-2-(8-fluoro-2-methylquinolin-6-ylthio)-N-(3-methyl-1H-pyrazol-5-yl)pyrimidin-4-amine (200 mg, 0.5 mmol), 1-(1-methylpiperidin-4-yl)piperazine (367 mg, 2 mmol) and diisopropylethylamine (194 mg, 1.5 mmol) in nBuOH (5 ml) was heated to 90° C. for 18 hours. The crude mixture was concentrated in vacuo and the residue was partitioned between ethyl acetate and water. The organic layer was further extracted with water. The combined organic layers were washed with brine, dried over MgSO4 and concentrated in vacuo. The resulting residue was triturated with cold acetonitrile, filtered and dried to afford the title compound as an off-white solid (83 mg, 30% yield).

reactant | 6-chloro-2-(8-fluoro-2-methylquinolin-6-ylthio)-N-(3-methyl-1H-pyrazol-5-yl)pyrimidin-4-amine | 0.5 mmol, 200 mg | ClC1=CC(=NC(=N1)SC=1C=C2C=CC(=NC2=C(C1)F)C)NC1=CC(=NN1)C | C18H14ClFN6S
reactant | 1-(1-methylpiperidin-4-yl)piperazine | 2 mmol, 367 mg | CN1CCC(CC1)N1CCNCC1 | C10H21N3
reactant | diisopropylethylamine | 1.5 mmol, 194 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | nBuOH | 5 ml | C(CCC)O | C4H10O
product | 2-(8-fluoro-2-methylquinolin-6-ylthio)-N-(3-methyl-1H-pyrazol-5-yl)-6-(4-(1-methylpiperidin-4-yl)piperazin-1-yl)pyrimidin-4-amine | 83 mg, 30% yield | FC=1C=C(C=C2C=CC(=NC12)C)SC1=NC(=CC(=N1)NC1=CC(=NN1)C)N1CCN(CC1)C1CCN(CC1)C | C28H34FN9S
